US05990101
3-phenylimidazo[5,1-b]thiazole
The same procedure as in Preparation 10 was repeated except that 1.9 g of (N-t-butoxycarbonylamino) acetothioamide and 2.49 g of 2'-bromoacetophenone were used, thereby obtaining 1.32 g of the title compound.

reactant | (N-t-butoxycarbonylamino) acetothioamide | 1.9 g | C(C)(C)(C)OC(=O)NCC(N)=S | C7H14N2O2S
reactant | 2'-bromoacetophenone | 2.49 g | BrC1=C(C=CC=C1)C(C)=O | C8H7BrO
product | 3-phenylimidazo[5,1-b]thiazole | 1.32 g | C1(=CC=CC=C1)C=1N2C(SC1)=CN=C2 | C11H8N2S
